US04464361
Adenosine 2',3',5'-triacetate (110 mg) and 3,3-diphenylthio-5-ethoxy-2-pyrrolidinone (155 mg) were heated in toluene (10 ml) under reflux for 5 hours, at the end of which the reaction solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography using chloroform-acetone (5:1) as the eluent. The active fractions were pooled and concentrated under reduced pressure to give crystals which were recrystallized from ethanol. By the above procedure was obtained N6 -(3,3-diphenylthio-5-oxo-2-pyrrolidinyl)adenosine 2',3',5'-triacetate as colorless needles (108 mg).

reactant | Adenosine 2',3',5'-triacetate | 110 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(N)=NC=NC12 | C16H19N5O7
reactant | 3,3-diphenylthio-5-ethoxy-2-pyrrolidinone | 155 mg | C1(=CC=CC=C1)SC1(C(NC(C1)OCC)=O)SC1=CC=CC=C1 | C18H19NO2S2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N6 -(3,3-diphenylthio-5-oxo-2-pyrrolidinyl)adenosine 2',3',5'-triacetate | 108 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC3NC(CC3(SC3=CC=CC=C3)SC3=CC=CC=C3)=O)=NC=NC12 | C32H32N6O8S2
